US07767691B2
Preparation of 4-[hydroxy(diphenyl)methyl]-1-{[3-(methyloxy)phenyl]methyl}-1-azoniabicyclo[2.2.1]heptane bromide
Following the general procedure outlined in Example 1, 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol (29.3 mg, 0.105 mmol) and 3-(bromomethyl)phenyl methyl ether (0.03 mL, 0.21 mmol) in 2 CH3CN/3 CHCl3 (2.5 mL) were reacted to give the desired product (5 mg, 10%). EI-MS m/z 400 (M+) Rt (1.72 min).

reactant | 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol | 0.105 mmol, 29.3 mg | N12CCC(CC1)(C2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C19H21NO
reactant | 3-(bromomethyl)phenyl methyl ether | 0.21 mmol, 0.03 mL | COC1=CC(=CC=C1)CBr | C8H9BrO
solvent | CH3CN | 2.5 mL | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-{[3-(methyloxy)phenyl]methyl}-1-azoniabicyclo[2.2.1]heptane bromide | 5 mg, 10% | [Br-].OC(C12CC[N+](CC1)(C2)CC2=CC(=CC=C2)OC)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C27H30NO2.BrH/c1-30-25-14-8-9-22(19-25)20-28-17-15-26(21-28,16-18-28)27(29,23-10-4-2-5-11-23)24-12-6-3-7-13-24;/h2-14,19,29H,15-18,20-21H2,1H3;1H/q+1;/p-1
